US04389327
In a nitrogen flushed flask were mixed 2-ethyl-2-oxazoline (99 g, 1 mole) and anhydrous hydrazine (32 g, 1 mole) in 150 ml of tetrahydrofuran. The mixture was heated 2 hours at 60° C. to obtain a yellow solution. The solvent was stripped to give a pale yellow oil. On standing, white crystals formed. They were recrystallized from 2-propanol to give 3,6-diethyl-1,2-dihydro-1,2,4,5-tetrazine as identified by mass spectroscopy, 13C NMR, and infrared analyses, mp 118.5°-119.5° C.

reactant | 2-ethyl-2-oxazoline | 1 mole, 99 g | C(C)C=1OCCN1 | C5H9NO
reactant | hydrazine | 1 mole, 32 g | NN | H4N2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3,6-diethyl-1,2-dihydro-1,2,4,5-tetrazine | C(C)C=1NNC(=NN1)CC | C6H12N4
